US05658935
204 mg of {3-[4-(aminoiminomethyl)benzyl]-2,5-dioxopyrrolidin-1-yl}acetyl-L-tryptophan methyl ester are heated with 10 ml of 6N HCl for 3 min, then the mixture is evaporated to dryness and the residue is redistilled twice with water. The residue is taken up in a little water and freeze-dried. 68 mg of {3-[4-(aminoiminomethyl)benzyl]-2,5-dioxopyrrolidin-1-yl}acetyl-L-tryptophan are obtained.

reactant | {3-[4-(aminoiminomethyl)benzyl]-2,5-dioxopyrrolidin-1-yl}acetyl-L-tryptophan methyl ester | 204 mg | COC([C@@H](NC(CN1C(C(CC1=O)CC1=CC=C(C=C1)C=NN)=O)=O)CC1=CNC2=CC=CC=C12)=O | C26H27N5O5
solvent | HCl | 6N, 10 ml | Cl | ClH
product | {3-[4-(aminoiminomethyl)benzyl]-2,5-dioxopyrrolidin-1-yl}acetyl-L-tryptophan | 68 mg | NN=CC1=CC=C(CC2C(N(C(C2)=O)CC(=O)N[C@@H](CC2=CNC3=CC=CC=C23)C(=O)O)=O)C=C1 | C25H25N5O5
